US05672715
A solution of 1.5 g of 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid (Ex. 2) in 30 mL of anhydrous THF was treated with 10 mL of 1.0M borane-THF solution and heated to reflux for 24 hr. The mixture was allowed to cool and added to ice water. A precipitate formed which was collected by filtration, washed with cold water and dried to give 1.3 g of 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol as a white solid: mp 58° C.; 1HNMR (CDCl3) δ 2.09 (q, 3H), 4.00 (s, 3H), 4.75 (s, 2H), 7.20 (d, 1H), 7.57 (d, 1H).

reactant | 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid | 1.5 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1C)C(F)(F)F)C | C13H9ClF4N2O2
reactant | borane THF | 1.0M, 10 mL | B.C1CCOC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol | 1.3 g | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1C)C(F)(F)F)C)CO | C13H11ClF4N2O
